US05534515
Eb. 1-(4-Methoxybenzyl)-2-methyl-4,5,6,7-tetrahydropyrrolo[2,3-d ]pyridazine-4,7-dione
46.0 g (0.133 mol) of diethyl 1-(4-methoxybenzyl)-5-methylpyrrole-2,3-dicarboxylate and 129.5 ml (2.66 mol) of hydrazine hydrate are reacted at 110° C. for 18 h in 290 ml of diglyme. Purification: precipitation from diisopropyl ether/ethyl acetate. Yield: 87%, m.p.: 300° C.

reactant | diethyl 1-(4-methoxybenzyl)-5-methylpyrrole-2,3-dicarboxylate | 0.133 mol, 46.0 g | COC1=CC=C(CN2C(=C(C=C2C)C(=O)OCC)C(=O)OCC)C=C1 | C19H23NO5
reactant | hydrazine hydrate | 2.66 mol, 129.5 ml | O.NN
solvent | diglyme | 290 ml | COCCOCCOC | C6H14O3
product | 1-(4-Methoxybenzyl)-2-methyl-4,5,6,7-tetrahydropyrrolo[2,3-d ]pyridazine-4,7-dione | Yield: 87% | COC1=CC=C(CN2C(=CC3=C2C(NNC3=O)=O)C)C=C1 | C15H15N3O3
